US06884774B2
To a mixture of 7-methoxy-1-heptanol (18.1 g) and p-toluenesulfonyl chloride (28.4 g) in dichloromethane (180 ml) was added triethylamine. After stirring for 27.5 hours at room temperature, the solvent was evaporated in vacuo. Then the residue was poured into a mixture of ethyl acetate and water. The organic layer was successively washed with water and brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (8:1→5:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to give 7-methoxyheptyl 4-methylbenzenesulfonate (28.5 g).

reactant | 7-methoxy-1-heptanol | 18.1 g | COCCCCCCCO | C8H18O2
reactant | p-toluenesulfonyl chloride | 28.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
product | 7-methoxyheptyl 4-methylbenzenesulfonate | 28.5 g | CC1=CC=C(C=C1)S(=O)(=O)OCCCCCCCOC | C15H24O4S
